US05627215
(E)-1-Allyl-14-methyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride
A mixture of 0.6 g (0,916 mmol) of (E)-1-allyl-14-methyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene and 9 ml of 3N methanolic hydrochloric acid is reacted analogously to Example 8. The resulting title compound melts at >260° C. 1H-NMR (D2O): δ2.07-2.17(m,4H); 2.73(s,3H); 3.12-3.19(m,8H); 3.69(d,2H); 3.77(d,4H); 5.48-5.55(m,2H); 5.83-5.98(m, 1H); 6.04-6.07 (m,2H).

reactant | (E)-1-allyl-14-methyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene | 0,916 mmol, 0.6 g | C(C=C)N(CCCN(C\C=C\CN(CCCN(C(=O)OC(C)(C)C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C34H62N4O8
reactant | hydrochloric acid | 3N, 9 ml | Cl | ClH
product | (E)-1-Allyl-14-methyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride | Cl.Cl.Cl.Cl.C(C=C)NCCCNC\C=C\CNCCCNC | InChI=1S/C14H30N4.4ClH/c1-3-8-16-13-7-14-18-11-5-4-10-17-12-6-9-15-2;;;;/h3-5,15-18H,1,6-14H2,2H3;4*1H/b5-4+;;;;
